US07612075B2
Ethyl-(2-hydroxymethyl-5-chloro-phenoxy)-acetate (2.44 g, 10 mmol) is dissolved in 40 ml of chloroform. Activated manganese (IV) oxyde (8.7 g, 100 mmol) is added in two portions and the resulting suspension is stirred at room temperature for 5 hours. After fitration on a pad of celite and concentration ethyl-(2-formyl-5-chloro-phenoxy)-acetate (2.18 g, 90% yield) is obtained as a pale yellow oil.

reactant | Ethyl-(2-hydroxymethyl-5-chloro-phenoxy)-acetate | 10 mmol, 2.44 g | C(C)OC(COC1=C(C=CC(=C1)Cl)CO)=O | C11H13ClO4
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese (IV) | [Mn+4]
product | ethyl-(2-formyl-5-chloro-phenoxy)-acetate | 2.18 g, 90% yield | C(C)OC(COC1=C(C=CC(=C1)Cl)C=O)=O | C11H11ClO4
